US04976773
To 4-nitrobenzenesulfonyl chloride (6.7 g) was added ammonia water (10 ml) while ice-cooling, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was extracted with ethyl acetate (100 ml), and the extract was washed with water and saturated aqueous sodium chloride and dried over anhydrous sodium sulfate, followed by evaporation of the solvent under a reduced pressure, to obtain 4-nitrobenzenesulfonamide (5.9 g).

reactant | 4-nitrobenzenesulfonyl chloride | 6.7 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | ammonia water | 10 ml | O.N
product | 4-nitrobenzenesulfonamide | 5.9 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N | C6H6N2O4S
